US07459562B2
C) N-(4-Fluorobenzyl)-N-(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)cyclopropane-1,1-dicarboxamide
To a solution of N-(4-fluorobenzyl)-N-(4-(2-carbamoylpyridin-4-yloxy)-3-fluorophenyl)cyclopropane-1,1-dicarboxamide (25 mg, 0.05 mmol) in DMF (1 mL) at room temperature was added pyridine (0.2 mL), water (0.1 mL), and [bis(trifluoroacetoxyl)-iodo]benzene (Aldrich, 34 mg, 0.08 mmol). The reaction mixture was stirred at rt for 2 h, and then quenched by adding 2 mL of methanol. The reaction mixture was purified by prep. HPLC. The desired fractions were combined, neutralized with aq. K2HPO4, concentrated and extracted with ethyl acetate. The organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was dissolved in a small amount of CH3CN/H2O and lyophillized to dryness to give the title comopound (21 mg, 90%) as a white solid. 1H NMR (DMSO-d6) δ 10.87 (br s, 1H), 8.44 (t, 1H, J=6.0 Hz), 7.91 (d, 1H, J=6.6 Hz), 7.88 (d, 1H, J=13.2 Hz), 7.37-7.29 (m, 6H), 7.13 (t, 2H, J=8.8 Hz), 4.29 (d, 2H, J=6.1 Hz), 1.38 (d, 4H, J=2.2 Hz); MS(ESI+) m/z 439.14 (M+H)+.

reactant | N-(4-fluorobenzyl)-N-(4-(2-carbamoylpyridin-4-yloxy)-3-fluorophenyl)cyclopropane-1,1-dicarboxamide | 0.05 mmol, 25 mg | FC1=CC=C(CN(C(=O)C2(CC2)C(=O)N)C2=CC(=C(C=C2)OC2=CC(=NC=C2)C(N)=O)F)C=C1 | C24H20F2N4O4
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 0.1 mL | O | H2O
reactant | [bis(trifluoroacetoxyl)-iodo]benzene | 0.08 mmol, 34 mg | FC(C(OI(OC(=O)C(F)(F)F)C1=CC=CC=C1)=O)(F)F | C10H5F6IO4
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(4-Fluorobenzyl)-N-(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)cyclopropane-1,1-dicarboxamide | FC1=CC=C(CN(C(=O)C2(CC2)C(=O)N)C2=CC(=C(C=C2)OC2=CC(=NC=C2)N)F)C=C1 | C23H20F2N4O3
